US06784184B2
5-[5-(4-Chlorophenyl)pent-4-ynyl]-5-(4-methoxyphenylsulfonyl)- thiazolidine-2,4-dione
To a solution of 5-(4-methoxyphenylsulfonyl)-thiazolidine-2,4-dione [U.S. Pat. No. 5,605,918; February 1997; Wrobel, et al.]((2.74 g, 9.5 mMol) in DMF (50 ml) was added sodium hexamethyldisilazane (1.0 M solution in THF-19.0 ml, 19.0 mmol) at room temperature, under nitrogen, and this was stirred for 15 minutes. To this was added 1-(4-chlorophenyl)-5-iodo-1-pentyne (2.70 g, 9.5 mmol) over 5 minutes, and this solution was stirred overnight at room temperature. The reaction mixture was quenched in water, and the solid that was obtained was recrystallized from methanol to give 1.59 g of the title compound as colorless crystals, m.p. 172-174°; NMR (CDCl3) δ1.59 (m, 1H); 2.0(m, 1H); 2.36 (dq (doublet of quartets?), 1H); 2.5 (t, 2H); 2.67 (dq, 1H); 3.88 (s, 3H); 7.0 (d, 2H); 7.26 (s, 4H) 7.86 (d, 2H) In a manner essentially that of Example 100, the following products of Examples 101-171 were obtained by alkylation of an arylthiazolidine-2,4-dione with the appropriate iodo or bromo compound. All structures were verified by NMR and gave spectra consistent with that shown in Example 100:

reactant | 5-(4-methoxyphenylsulfonyl)-thiazolidine-2,4-dione | COC1=CC=C(C=C1)S(=O)(=O)C1C(NC(S1)=O)=O | C10H9NO5S2
reactant | sodium hexamethyldisilazane | 19.0 mmol, 1.0 M, 19.0 ml | C[Si](N[Si](C)(C)C)(C)C.[Na]
reactant | 1-(4-chlorophenyl)-5-iodo-1-pentyne | 9.5 mmol, 2.70 g | ClC1=CC=C(C=C1)C#CCCCI | C11H10ClI
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 5-[5-(4-Chlorophenyl)pent-4-ynyl]-5-(4-methoxyphenylsulfonyl)- thiazolidine-2,4-dione | 1.59 g | ClC1=CC=C(C=C1)C#CCCCC1(C(NC(S1)=O)=O)S(=O)(=O)C1=CC=C(C=C1)OC | C21H18ClNO5S2
